US05248673
Preparation of phenylmethyl [6-[1-piperidinyl]-5-[[(4-methylphenyl)sulfony]amino]-6-oxohexyl]carbamate (3k)
To a cold (0° C.), nitrogen-blanketed mixture of 2-[[(4-methylphenyl]sulfonyl]amino]-6-[[(phenylmethoxy)carbonyl]amino]hexanoic acid (18.00 g, 44.43 mmol), triethylamine (5.80 mL, 41.43 mmol) and piperidine (4.10 mL, 41.43 mmol) in anhydrous dimethylformamide (80 mL) was added dropwise diphenylphosphoryl azide (8.90 mL, 41.43 mmol). The mixture was stirred at about 0° C. for about 1 hour and at ambient temperature for about 2 hours before it was partitioned between ethyl acetate and water. The organic phase was separated and the aqueous phase was extracted three additional times with ethyl acetate. The combined extracts were then washed with saturated sodium bicarbonate solution, 1N hydrochloric acid and brine prior to drying and solvent concentration. There was isolated in sufficiently pure state 20.90 g (100%) of the title compound of as pale yellow oil; 1H NMR (CDCl3) δ 7.62 (d, J=8.2 Hz, 2H), 7.30-7.22 (m, 5H), 7.19 (d, J=8.1 Hz, 2H), 5.94 (d, J=8.9 Hz, 1H), 5.09-5.07 (m, 1H), 5.03 (s, 2H), 3.90-3.88 (m, 1H), 3.43-3.36 (m, 1H), 3.09-2.91 (m, 5H), 2.32 (s, 3H), 1.4-1.23 (m, 10H), 1.09-0.97 (m, 2H); 13C NMR (CDC13) ppm 168.28, 156.09, 142.87, 136.43, 136.30, 128.98, 127.95, 127.43, 126.96, 65.81, 52.08, 45.70, 42.67, 40.14, 32.58, 28.72, 25.49, 24.65, 23.64, 21.71, 20.93; IR (KBr, cm-1) 3316, 2938, 2860, 1718, 1634, 1526, 1452, 1416, 1340, 1246, 1162, 1092; MS m/z (MH+) calcd 502.2376, obsd 502.2363.

reactant | 2-[[(4-methylphenyl]sulfonyl]amino]-6-[[(phenylmethoxy)carbonyl]amino]hexanoic acid | 44.43 mmol, 18.00 g | CC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCCCNC(=O)OCC1=CC=CC=C1 | C21H26N2O6S
reactant | triethylamine | 41.43 mmol, 5.80 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine | 41.43 mmol, 4.10 mL | N1CCCCC1 | C5H11N
reactant | diphenylphosphoryl azide | 41.43 mmol, 8.90 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | phenylmethyl [6-[1-piperidinyl]-5-[[(4-methylphenyl)sulfony]amino]-6-oxohexyl]carbamate | 20.90 g, 100% | N1(CCCCC1)C(C(CCCCNC(OCC1=CC=CC=C1)=O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C26H35N3O5S
